US04737519
To a suspension of 22 g (0.1 mole) of chromium hexacarbonyl in ether is slowly added phenyllithium (51 ml, 0.1 mole, cyclohexane:ether solution) via syringe over a period of 15-20 minutes under argon at room temperature, and the resulting deep red solution is stirred at room temperature for 1 hour. The solvent is removed under reduced pressure (bath temperature should be below 40° C.), and the black residue is dissolved in 200 ml water. (CH3)3O.BF4 (about 15 g) is added portionwise to the solution until it becomes slightly acidic (pH≈5.5). The aqueous layer is extracted three times with 200 ml of ether, and the combined etheral extracts are washed once with 300 ml of saturated brine solution, once with 300 ml of saturated sodium carbonate solution, and three times with 300 ml of saturated brine solution, dried over anhydrous sodium sulfate and filtered. The solvent is removed using a rotary evaporator and the deep red tarry residue is purified by a silica gel column (200 g) using flash chromatography. Elution by approx. 10% ether in n-hexane gives a deep red syrup, which is solidified upon cooling. Recrystallization from pet-ether at -70° C. gives 25.12 g (80.5%) of pentacarbonyl[phenyl(methoxy)carbene]chromium as deep red crystalline.

reactant | chromium hexacarbonyl | 0.1 mole, 22 g | [C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Cr]
reactant | phenyllithium | 0.1 mole, 51 ml | C1(=CC=CC=C1)[Li]
reactant | ether | CCOCC | C4H10O
product | pentacarbonyl[phenyl(methoxy)carbene]chromium | 25.12 g, 80.5% | C(=O)=[Cr](=C(OC)C1=CC=CC=C1)(=C=O)(=C=O)(=C=O)=C=O | InChI=1S/C8H8O.5CO.Cr/c1-9-7-8-5-3-2-4-6-8;5*1-2;/h2-6H,1H3;;;;;;
